US04952232
Preparation of 2,3-bis(4-fluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3,4-epoxy-2-butanol
2,3-Bis(4-fluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-butene-2-ol (1.0 g) was dissolved in 50 ml of anhydrous benzene and stirred under nitrogen. To this solution was added 0.012 g of vanadium acetonylacetonate. The solution was then refluxed and tert-butyl hydroperoxide (0.44 g dissolved in 5 ml of anhydrous benzene) was added dropwise over 10 minutes. The reaction was refluxed for one additional hour and then cooled to ambient temperature. The benzene was removed in vacuo and the residue chromatographed on silica gel (2% MeOH/CH2Cl2). This yielded a total of 650 mg of diastereomeric products in a 3:1 ratio. Further chromatography resulted in the separation of the diastereomers. The major isomer was a waxy white solid. NMR (CDCl3 /TMS) δ2.60 (d, J=6 Hz, 1H); 3.48 (d, J=6 Hz, 1H); 4.70 (q, J=7 Hz, 2H); 5.25 (s, 1H); 6.8-7.3 (m, 8H); 7.55 (s, 1H); 7.90 (s, 1H).

reactant | 2,3-Bis(4-fluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-butene-2-ol | 1.0 g | FC1=CC=C(C=C1)C(CN1N=CN=C1)(C(=C)C1=CC=C(C=C1)F)O | C18H15F2N3O
reactant | tert-butyl hydroperoxide | 5 ml, 0.44 g | C(C)(C)(C)OO | C4H10O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | vanadium | 0.012 g | [V] | V
product | 2,3-bis(4-fluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3,4-epoxy-2-butanol | 650 mg | FC1=CC=C(C=C1)C(CN1N=CN=C1)(C1(CO1)C1=CC=C(C=C1)F)O | C18H15F2N3O2
